** sch_path: /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/lc-vco/LC_VCO.sch
.SUBCKT LC_VCO VDD OUTp OUTn Ibias VCTRL GND
*.PININFO VDD:B OUTp:O OUTn:O GND:B VCTRL:B Ibias:B
M6 net1 Ibias GND GND sg13_lv_nmos w=1u l=0.15u ng=1 m=60
M5 Ibias Ibias GND GND sg13_lv_nmos w=1u l=0.15u ng=1 m=1
M4 OUTp OUTn VDD VDD sg13_lv_pmos w=8.5u l=0.5u ng=1 m=13
M3 OUTn OUTp VDD VDD sg13_lv_pmos w=8.5u l=0.5u ng=1 m=13
M2 OUTp OUTn net1 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=12
M1 OUTn OUTp net1 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=12
XC3 OUTp OUTn cap_cmim w=4.26e-6 l=4.26e-6 m=12
Mv2 OUTp VCTRL OUTp VDD sg13_lv_pmos w=4u l=4u ng=1 m=22
Mv1 OUTn VCTRL OUTn VDD sg13_lv_pmos w=4u l=4u ng=1 m=22
XR1 OUTn OUTp sub! rhigh w=1e-6 l=0.79e-6 m=1 b=0
x1 OUTn OUTp ihp_4nh_inductor
.ENDS
.GLOBAL VDD
